US04906643
A mixture of 2 parts of 2-bromothiazole and 4.28 parts of cis-4-amino-N-[1-(2-aminoethyl)-3-methoxy-4-piperidinyl]-5-chloro-2-methoxybenzamide was stirred for one hour at 60° C. The mixture solidified. It was suspended in 10 parts of pyridine and stirring was continued overnight at reflux. The reaction mixture was evaporated. The residue was taken up in a saturated sodium carbonate solution. The product was extracted with trichloromethane. The extract was dried, filtered and evaporated. The residue was purified by column chromatography over silica gel using a mixture of trichloromethane and methanol (93:7 by volume) as eluent. The pure fractions were collected and the eluent was evaporated. The residue was converted into the hydrochloride salt in 2-propanol. The salt was filtered off and the free base was liberated in the conventional manner and extracted with trichloromethane. The extract was dried, filtered and evaporated. The residue was purified by column chromatography over silica gel using a mixture of trichloromethane and methanol, saturated with ammonia, (95:5 by volume) as eluent. The pure fractions were collected and the eluent was evaporated. The residue was crystallized from a mixture of acetonitrile and 2,2'-oxybispropane. The product was filtered off and dried, yielding 0.6 parts (11%) of cis-4-amino-5-chloro-2-methoxy-N-[3-methoxy-1-[2-(2-thiazolylamino)ethyl]-4-piperidinyl]benzamide; mp. 140.9° C. (compound 44).

reactant | 2-bromothiazole | BrC=1SC=CN1 | C3H2BrNS
reactant | cis-4-amino-N-[1-(2-aminoethyl)-3-methoxy-4-piperidinyl]-5-chloro-2-methoxybenzamide | NC1=CC(=C(C(=O)N[C@@H]2[C@@H](CN(CC2)CCN)OC)C=C1Cl)OC | C16H25ClN4O3
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | cis-4-amino-5-chloro-2-methoxy-N-[3-methoxy-1-[2-(2-thiazolylamino)ethyl]-4-piperidinyl]benzamide | 11% | NC1=CC(=C(C(=O)N[C@@H]2[C@@H](CN(CC2)CCNC=2SC=CN2)OC)C=C1Cl)OC | C19H26ClN5O3S
